US07705042B2
b) 4-Methyl-piperazine-1-carboxylic acid methyl-(4-nitro-3-piperidin-1-yl-phenyl)-amide
To a solution of triphosgene (40.6 mg, 0.13 mmol) in 2 mL of CH2Cl2 was added methyl-(4-nitro-3-piperidin-1-yl-phenyl)-amine (88 mg, 0.37 mmol) and DIEA (38 μL, 0.22 mmol) in 2 mL of CH2Cl2 over a 15 min. period. A solution of N-methylpiperazine (1.2 eq, 41 μL) and DIEA (38 μL, 0.22 mmol) in 1.5 mL of CH2Cl2 were then added via cannula and stirring was continued for 10 min. The reaction was diluted with CHCl3 (50 mL) and washed with satd aq NaHCO3 (50 mL). The organic layer was dried (Na2SO4) and concentrated in vacuo to give 115 mg (86%) of the title compound a yellow oil. Mass spectrum (ESI, m/z): Calcd. for C18H27N5O3, 362.2 (M+H), found 362.2.

reactant | triphosgene | 0.13 mmol, 40.6 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | methyl-(4-nitro-3-piperidin-1-yl-phenyl)-amine | 0.37 mmol, 88 mg | CNC1=CC(=C(C=C1)[N+](=O)[O-])N1CCCCC1 | C12H17N3O2
reactant | DIEA | 0.22 mmol, 38 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | N-methylpiperazine | 41 μL, 1.2 eq | CN1CCNCC1 | C5H12N2
reactant | DIEA | 0.22 mmol, 38 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1.5 mL | C(Cl)Cl | CH2Cl2
solvent | CHCl3 | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-Methyl-piperazine-1-carboxylic acid methyl-(4-nitro-3-piperidin-1-yl-phenyl)-amide | 115 mg, 86% | CN(C(=O)N1CCN(CC1)C)C1=CC(=C(C=C1)[N+](=O)[O-])N1CCCCC1 | C18H27N5O3
